US07943609B2
A 500-mL, round-bottomed flask was charged with potassium ferricyanide (III) (15.0 g, 45.6 mmol), 2,5-diphenyl-4,6-bis(9-O-dihydroquinidyl)pyrimidine ((DHQD)2-PYR) (132 mg, 0.15 mmol) and K2CO3 (6.29 g, 45.6 mmol). A 1:1 mixture of tert-butyl alcohol/H2O (150 mL) was added and the suspension was stirred under N2. A 0.25 M solution of OSO4 in toluene (0.60 mL, 0.15 mmol) was then added the mixture was cooled to 0° C. After stirring for 60 minutes, 4-vinyltetrahydro-2H-pyran (1.70 g, 15.2 mmol) was added and the mixture was stirred overnight. Solid Na2S2O5 (22.5 g) was then added and the reaction mixture was allowed to warm to ambient temperature. CH2Cl2 (150 mL) was then added and the layers were separated. The aqueous layer was extracted with CH2Cl2 (3×30 mL) and the combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 10% methanol/CHCl3) gave 2.11 g of (1R)-1-tetrahydro-2H-pyran-4-ylethane-1,2-diol as a colorless oil.

reactant | K2CO3 | 45.6 mmol, 6.29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl alcohol H2O | 150 mL | C(C)(C)(C)O.O
reactant | 4-vinyltetrahydro-2H-pyran | 15.2 mmol, 1.70 g | C(=C)C1CCOCC1 | C7H12O
catalyst | potassium ferricyanide | 45.6 mmol, 15.0 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | toluene | 0.15 mmol, 0.60 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | (1R)-1-tetrahydro-2H-pyran-4-ylethane-1,2-diol | 2.11 g | O1CCC(CC1)[C@H](CO)O | C7H14O3
